US07956202B2
C. Trans-8-chloro-11-nitromethyl-10,11-dihydro-dibenzo[b,f]oxepine-10-carboxylic acid methyl ester
To a 5 L 3-neck round bottom flask was added 8-chloro-dibenz[b,f]-oxepin-10-carboxylic acid methyl ester (305 g, 1.06 mol, 1 eq) followed by THF (1.25 L) and t-butyl-tetramethylguanidine (27 g, 0.15 mol, 0.14 eq). To this solution was added nitromethane (576 g, 9.45 mol, 8.9 eq) in THF (0.5 L) while maintaining a temperature of less than 30° C. The resultant mixture was stirred at room temperature until judged complete by HPLC (overnight, <3% starting material). Once complete, methyl tertiary butyl ether (1.25 L), water (0.6 L) and 1N HCl (0.6 L) were added, the layers were separated, and the aqueous layer was extracted a second time with MTBE (1 L). The combined organic layers were washed with 1N HCl (2×0.6 L) and saturated sodium chloride (0.6 L). After addition of toluene (2 L) the organic fraction was concentrated under vacuum to a volume less than 2 L, toluene (1 L) was added, and the mixture was concentrated to minimum volume. Addition of THF (0.5 L) afforded the titled compound as a light colored solution which was used without further purification (368 g, 1.06 mol, theoretical). HPLC area %: 45% toluene, 48% trans-nitro ester, 6% cis-nitro ester, 1% starting material. HPLC conditions: column—3.5 μm Zorbax SB-Phenyl, 3 mm×150 mm; solvent—gradient from 55% water (0.1% HOCl4)/45% methanol (0.1% HOCl4) to 100% methanol (0.1% HOCl4) in 10 minutes and hold for 2 minutes; flow 0.5 mL/minute; detection at 210 nm.

reactant | 8-chloro-dibenz[b,f]-oxepin-10-carboxylic acid methyl ester | 1.06 mol, 305 g, 1 eq | COC(=O)C1=CC2=C(OC3=C1C=C(C=C3)Cl)C=CC=C2 | C16H11ClO3
reactant | t-butyl-tetramethylguanidine | 0.15 mol, 27 g, 0.14 eq | C(C)(C)(C)N=C(N(C)C)N(C)C | C9H21N3
reactant | nitromethane | 9.45 mol, 576 g, 8.9 eq | [N+](=O)([O-])C | CH3NO2
reactant | HCl | 1N, 0.6 L | Cl | ClH
solvent | THF | 0.5 L | C1CCOC1 | C4H8O
solvent | THF | 1.25 L | C1CCOC1 | C4H8O
solvent | water | 0.6 L | O | H2O
solvent | methyl tertiary butyl ether | 1.25 L | C(C)(C)(C)OC | C5H12O
product | Trans-8-chloro-11-nitromethyl-10,11-dihydro-dibenzo[b,f]oxepine-10-carboxylic acid methyl ester | COC(=O)[C@H]1[C@@H](C2=C(OC3=C1C=C(C=C3)Cl)C=CC=C2)C[N+](=O)[O-] | C17H14ClNO5
